US05480857
Diethyl 2-(5-nitropyridin-2-yl)malonate (67.47 g) was stirred in water and aqueous sodium hydroxide solution (2N) was added followed by potassium permanganate (42 g) causing the reaction temperature to rise to 60° C. Further portions of aqueous sodium hydroxide solution and potassium permanganate were added maintaining the reaction temperature at 60°-70° C. After the final addition, the suspension was stirred at 60° C. for 1.5 hours. The hot suspension was then filtered through `Hyflo Supercel`. The filter cake was washed with aqueous sodium hydroxide solution (2N). On cooling to room temperature, the filtrate was carefully acidified to pH 1-2 with concentrated hydrochloric acid. The resulting precipitate was collected by filtration and dried to yield 5-nitropyridine-2-carboxylic acid (26.17 g) as a fawn solid, m.p. 210°-211° C.

reactant | Diethyl 2-(5-nitropyridin-2-yl)malonate | 67.47 g | [N+](=O)([O-])C=1C=CC(=NC1)C(C(=O)OCC)C(=O)OCC | C12H14N2O6
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | potassium permanganate | 42 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | O | H2O
product | 5-nitropyridine-2-carboxylic acid | 26.17 g | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)O | C6H4N2O4
